US05981559
5'-[3-(4-Chlorobenzenesulfonyl)propyl]-2'-hydroxy-3-[(4-tert-butyl-2-thiazolyl)methoxy]benzanilide (1.60 g, 2.67 mmol) was dissolved in dimethylformamide (16 ml), potassium carbonate (0.55 g, 4.00 mmol), a catalytically effective amount of tetrabutylammonium bromide and bromoacetonitrile (0.22 ml, 3.20 mmol) were added in that order under ice-cooling, followed by overnight stirring at room temperature. Ice-water was added to the reaction solution and the mixture was extracted twice with benzene-ethyl acetate (1:1). The resulting organic layer was washed with 5% potassium carbonate aqueous solution and brine in that order, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. By crystallizing the resulting residue from acetonitrile, 3-[(4-tert-butyl-2-thiazolyl)methoxy]-5'-[3-(4-chlorophenylsulfonyl)propyl]-2'-cyanomethoxybenzanilide was obtained as colorless crystals (1.34 g, 79%).

reactant | 5'-[3-(4-Chlorobenzenesulfonyl)propyl]-2'-hydroxy-3-[(4-tert-butyl-2-thiazolyl)methoxy]benzanilide | 2.67 mmol, 1.60 g | ClC1=CC=C(C=C1)S(=O)(=O)CCCC=1C=CC(=C(NC(C2=CC(=CC=C2)OCC=2SC=C(N2)C(C)(C)C)=O)C1)O | C30H31ClN2O5S2
reactant | potassium carbonate | 4.00 mmol, 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetonitrile | 3.20 mmol, 0.22 ml | BrCC#N | C2H2BrN
solvent | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-[(4-tert-butyl-2-thiazolyl)methoxy]-5'-[3-(4-chlorophenylsulfonyl)propyl]-2'-cyanomethoxybenzanilide | C(C)(C)(C)C=1N=C(SC1)COC=1C=C(C(=O)NC2=C(C=CC(=C2)CCCS(=O)(=O)C2=CC=C(C=C2)Cl)OCC#N)C=CC1 | C32H32ClN3O5S2
